US05221750
Synthesis of Compound (51), 5-phenyl-2-(2-nitro-4-trifluoromethylphenyl)-4-isoxazolin-3-one:
After mixing 22.6 g of 4-chloro-3-nitrobenzotrifluoride, 19.3 g of 5-phenyl-3-hydroxyisoxazole, 16.8 g of potassium carbonate, and 150 ml of dimethyl sulfoxide, the reaction was performed for 3 hours at 70° C. After the reaction was over, the reaction mixture was cooled and poured into water. Crystals thus deposited were recovered by filtration and recrystallized from a mixture of dimethylformamide and methanol to provide 28.4 g of the desired product with a yield of 95.0%. The melting point thereof was 185° C. to 187° C.

reactant | 4-chloro-3-nitrobenzotrifluoride | 22.6 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | 5-phenyl-3-hydroxyisoxazole | 19.3 g | C1(=CC=CC=C1)C1=CC(=NO1)O | C9H7NO2
reactant | potassium carbonate | 16.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-phenyl-2-(2-nitro-4-trifluoromethylphenyl)-4-isoxazolin-3-one | 28.4 g, yield of 95.0% | C1(=CC=CC=C1)C1=CC(N(O1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C16H9F3N2O4
